US09340538B2
Step B: (S)-4-benzyl-2,2-dimethyl-5-oxomorpholine-3-carboxylic acid
To a mixture of (S)-2-(benzylamino)-3-hydroxy-3-methylbutanoic acid (22.86 g, 102.4 mmol), tetrahydrofuran (110 mL), potassium carbonate (42.5 g, 307.2 mmol) and water (70 mL) was added chloroacetyl chloride slowly (17.8 g, 157.7 mmol) at 0° C. over a period of 1 hour, then the mixture was stirred at 0° C. for 3 hours. To the reaction mixture was added a solution of sodium hydroxide (16.4 g, 409.6 mmol) in water (40 mL) over a period of 1 hour. At the end of addition, the mixture was cooled to 3° C.-5° C., and the mixture was stirred at the temperature for 4 hours. Then the reaction mixture was warmed to room temperature, and washed with Petroleum ether (50 mL×2). The aqueous layer was cooled to 3° C. below and adjusted to pH 2 with con. HCl. The mixture was stirred at 6° C. below for 12 hours, then filtered. The filter cake was washed with water to give the title compound as a white solid (18.6 g, 69%). The compound was characterized by the following spectroscopic data:

reactant | (S)-2-(benzylamino)-3-hydroxy-3-methylbutanoic acid | 102.4 mmol, 22.86 g | C(C1=CC=CC=C1)N[C@H](C(=O)O)C(C)(C)O | C12H17NO3
reactant | potassium carbonate | 307.2 mmol, 42.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium hydroxide | 409.6 mmol, 16.4 g | [OH-].[Na+]
solvent | water | 40 mL | O | H2O
solvent | water | 70 mL | O | H2O
solvent | tetrahydrofuran | 110 mL | O1CCCC1 | C4H8O
product | (S)-4-benzyl-2,2-dimethyl-5-oxomorpholine-3-carboxylic acid | 18.6 g, 69% | C(C1=CC=CC=C1)N1[C@@H](C(OCC1=O)(C)C)C(=O)O | C14H17NO4
